US05679683
4-([R]-1-Phenylethylamino)benzothieno[3,2-d]pyrimidine 4-Chlorobenzothieno[3,2-d]pyrimidine (110.1 mg, 0.5 mmol), [R]-1-phenylethylamine (74 mg, 0.6 mmol) and NEt3 (111 mg, 1.1 mmol) in stirred propanol (2 mL) are heated at reflux under N2 for 9 h. The mixture is allowed to cool, and is then purified by preparative tlc on silica, eluting once with 2% MeOH in CHCl3. The yellow solid is recrystallized from EtOH at 0° C. to give 4-([R]-1-phenylethylamino)benzothieno[3,2-d]pyrimidine, (75 mg, 49%) as pale yellow cubic crystals. 1H NMR (DMSO) δ8.53(1H, s), 8.30(1H, d, J=7.2 Hz), 8.15 (1H, d, J=8.2 Hz), 7.68 (1H, dt, Jd =1.2 Hz, Jt =7.5Hz), 7.58 (1H, dt, Jd =1 Hz, Jt =7.5 Hz), 7.44 (1H, dd, J=1, 8 Hz), 7.31 (2H, t, J=7.7 Hz), 7.21 (1 H, tt, J=1, 7.7 Hz), 5.58(1H, q, J =7 Hz), 1.58 (3H, d, J=7 Hz).

reactant | 4-([R]-1-Phenylethylamino)benzothieno[3,2-d]pyrimidine 4-Chlorobenzothieno[3,2-d]pyrimidine | 0.5 mmol, 110.1 mg | ClC=1C2=C(N=CN1)C1=C(S2)C=CC=C1.C1(=CC=CC=C1)[C@@H](C)NC=1C2=C(N=CN1)C1=C(S2)C=CC=C1
reactant | [R]-1-phenylethylamine | 0.6 mmol, 74 mg | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
reactant | NEt3 | 1.1 mmol, 111 mg | CCN(CC)CC | C6H15N
solvent | propanol | 2 mL | C(CC)O | C3H8O
product | 4-([R]-1-phenylethylamino)benzothieno[3,2-d]pyrimidine | 75 mg, 49% | C1(=CC=CC=C1)[C@@H](C)NC=1C2=C(N=CN1)C1=C(S2)C=CC=C1 | C18H15N3S
